US07569578B2
(±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide
A stirred solution of 2-(7-methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethanamine (20.0 mg, 0.06 mmol) in dimethylformamide (1.0 mL) at 0° C. was treated with carbonyl diimidazole (11.0 mg, 1.1 equiv). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred for 10 min, and treated with 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one (15.0 mg, 1.1 equiv). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to afford 22.0 mg (64%). 1H-NMR (CD3OD, 500 MHz) δ 0.90 (s, 9H), 1.35-1.60 (m, 4H), 2.53 (s, 3H), 2.71-2.85 (m, 2H), 3.41-3.52 (m, 2H), 3.98-4.14 (m, 5H), 4.24 (d, J=14.3, 1H), 4.34 (m, 1H), 6.77 (d, J=7.9, 1H), 6.94 (dd, J=7.6, 7.3, 1H), 7.06-7.17 (m, 3H), 7.45 (s, 1H), 7.88 (s, 1H), 7.98 (s, 1H). Mass spec.: 571.28 (MH)+.

reactant | 2-(7-methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethanamine | 0.06 mmol, 20.0 mg | CC=1C=C(C=C2C=NNC12)CC(N)C1=NN=NN1CC(C)(C)C | C16H23N7
reactant | carbonyl diimidazole | 11.0 mg, 1.1 equiv | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-(piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 15.0 mg, 1.1 equiv | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-N-(2-(7-Methyl-1H-indazol-5-yl)-1-(1-neopentyl-1H-tetrazol-5-yl)ethyl)-4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamide | CC=1C=C(C=C2C=NNC12)CC(C1=NN=NN1CC(C)(C)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C30H38N10O2
